US04929613
2,5-Difluoro-4-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl) benzonitrile.
A mixture of 2.88 g (10 mmoles) of 4-(4-bromo-2,5-difluorophenyl)-1,2,3,6-tetrahydro-1-methylpyridine and 0.90 g (10 mmoles) of cuprous cyanide in 30 ml of dimethylformamide was refluxed overnight. The solvent was evaporated, the residue treated with ammonium hydroxide, and the solution extracted with dichloromethane. Evaporation of the organic phase afforded the title compound.

reactant | 4-(4-bromo-2,5-difluorophenyl)-1,2,3,6-tetrahydro-1-methylpyridine | 10 mmoles, 2.88 g | BrC1=CC(=C(C=C1F)C=1CCN(CC1)C)F | C12H12BrF2N
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,5-Difluoro-4-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl) benzonitrile | FC1=C(C#N)C=C(C(=C1)C=1CCN(CC1)C)F | C13H12F2N2
